US07501406B2
{(R)-1-[Allyl-(2,4-dimethoxy-benzyl)-carbamoyl]-but-3-enyl}-carbamic acid tert-butyl ester
(R)-N-Boc-allylglycine (2.3 g, 9.9 mmol) was dissolved in dimethylformamide (20 ml) and activated with the coupling reagent TATU (3.5 g, 10.9 mmol) and Hünig's base (3.8 ml, 21.9 mmol) for 2 min. Allyl-(2,4-dimethoxy-benzyl)-amine (2.1 g, 9.9 mmol) dissolved in dimethylformamide (20 ml) was added to the chilled (ice-water bath) reaction mixture and the stirring was continued overnight. The solvent was evaporated and the residue was dissolved in ethyl acetate, washed with saturated NaHCO3 solution, 1 M KHSO4 solution, brine, dried (MgSO4.2H2O), filtered and concentrated under reduce pressure and purified over silica gel (ethyl acetate/n-heptane 1:4): colorless gum 2.6 g (62%);

reactant | (R)-N-Boc-allylglycine | 9.9 mmol, 2.3 g | CC(C)(C)OC(=O)NC(CC=C)C(=O)O.C1CCC(CC1)NC2CCCCC2
reactant | TATU | 10.9 mmol, 3.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.[B-](F)(F)(F)F
reactant | Hünig's base | 21.9 mmol, 3.8 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Allyl-(2,4-dimethoxy-benzyl)-amine | 9.9 mmol, 2.1 g | C(C=C)NCC1=C(C=C(C=C1)OC)OC | C12H17NO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | {(R)-1-[Allyl-(2,4-dimethoxy-benzyl)-carbamoyl]-but-3-enyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](CC=C)C(N(CC1=C(C=C(C=C1)OC)OC)CC=C)=O)=O | C22H32N2O5
